US04130568
A solution of 2.32g. (0.010 mole) of 6-allyl-7-hydroxy-8-methoxycoumarin in 8 ml. of chloroform was treated with 4.5 ml. of acetic anhydride/pyridine, 1:2. The reactants were stirred at 25° for 2.0 hours and then partitioned between 1N HCl/methylene chloride. The aqueous phase was further extracted with methylene chloride. The organic extracts were combined, dried over sodium sulfate, and evaporated to afford pure 7-acetoxy-6-allyl-8-methoxycoumarin as a white solid, mp 101°-102°. Recrystallization from ethanol afforded an analytical sample, mp 102°-103°.

reactant | 6-allyl-7-hydroxy-8-methoxycoumarin | 0.010 mole | C(C=C)C=1C=C2C=CC(OC2=C(C1O)OC)=O | C13H12O4
reactant | acetic anhydride pyridine | C(C)(=O)OC(C)=O.N1=CC=CC=C1
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-acetoxy-6-allyl-8-methoxycoumarin | C(C)(=O)OC1=C(C=C2C=CC(OC2=C1OC)=O)CC=C | C15H14O5
